US07737166B2
N-[2-(tert-Butyldiphenylsiloxy)ethyl]-4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-124)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution, 1.05 ml, 1.54 mmol) was dropwise added at room temperature to a dichloromethane (3 ml) solution of [2-(tert-butyldiphenylsiloxy)ethyl]methylamine (I-123) (483 mg, 1.54 mmol), and stirred for 40 minutes. Subsequently, a dichloromethane (2 ml) solution of ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (250 mg, 771 μmol) was dropwise added and stirred for 16 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, and the reaction liquid was extracted with chloroform. Next, the obtained organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with n-hexane/ethyl acetate (3:1, v/v) gave the entitled compound (304 mg, 67%) as an amorphous substance.

reactant | trimethylaluminium | 1.54 mmol, 1.03 M, 1.05 ml | C[Al](C)C
reactant | [2-(tert-butyldiphenylsiloxy)ethyl]methylamine | 1.54 mmol, 483 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCNC | C19H27NOSi
reactant | ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 771 μmol, 250 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)OCC)F)C2=CC=CC=C2)C | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-[2-(tert-Butyldiphenylsiloxy)ethyl]-4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 304 mg, 67% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCN(C(=O)C=1OC2=C(N1)C(=C(C(=C2F)C2=CC=CC=C2)C)C#N)C | C35H34FN3O3Si
